US08110573B2
4-(3,4-Dinitro-benzyl)-morpholine (0.800 Kg, 2.99 mol, 1.0 wt), and ethanol (11.20 L, 14.0 vol) were charged to a suitable flask and stirred at 15 to 25° C. and a vacuum/nitrogen purge cycle was performed three times. 10% Palladium on carbon (10% Pd/C, 50% wet paste, 0.040 Kg, 0.05 wt wet weight) was slurried in ethanol (0.80 L, 1.0 vol) and added to the reaction. The mixture was cooled to 10 to 20° C. and a vacuum/nitrogen purge cycle was performed three times. A vacuum/hydrogen purge cycle was performed three times and the reaction was stirred under a hydrogen atmosphere at 10 to 20° C. Reaction completion was determined by 1H NMR analysis (d6-DMSO), typically 14 to 20 hours. A vacuum/nitrogen purge cycle was performed three times and the reaction mixture was filtered through glass microfibre paper under nitrogen. The filter-cake was washed with ethanol (3×0.80 L, 3×1.0 vol) and the combined filtrate and washes were concentrated to dryness under vacuum at 35 to 45° C. to give 4-morpholin-4-yl-methyl-benzene-1,2-diamine (0.611 Kg 98.6%) as a brown solid.

reactant | 4-(3,4-Dinitro-benzyl)-morpholine | 2.99 mol, 0.800 Kg | [N+](=O)([O-])C=1C=C(CN2CCOCC2)C=CC1[N+](=O)[O-] | C11H13N3O5
solvent | ethanol | 11.20 L | C(C)O | C2H6O
product | 4-morpholin-4-yl-methyl-benzene-1,2-diamine | 0.611 Kg, 98.6% | N1(CCOCC1)C=1C(=C(C(=CC1)N)N)C | C11H17N3O
